US07557103B2
B. Thieno[3,2-b]pyridine
3.69 g of 7-Bromo-thieno[3,2-b]pyridine (17 mmol) is dissolved in 20 ml of dry THF and cooled to −78° C. 21.2 ml of n-BuLi 1.6M in hexane (34 mmol) is added slowly to the mixture at −78° C. and stirred at −78° C. for 20 min, and 20 ml of MeOH/H2O=1/1 is added and stirred at room temperature for 1 h. The reaction mixture is extracted with CHCl2. The separated CH2Cl2 layer is washed with sat. NaCl, dried over Na2SO4 and evaporated. The crude product is applied onto a silica-gel chromatography column (Hexane→Hexane:AcOEt=−10:1) to give 1.44 g of the title compound. Yield 62%. mass spectrum (m/e): 136 (M+1); 1H-NMR (CDCl3): 8.73 (m, 1H), 8.22 (m, 1H), 7.79 (m, 1H), 7.61 (m, 1H), 7.29 (m, 1H) ppm.

reactant | 7-Bromo-thieno[3,2-b]pyridine | 17 mmol, 3.69 g | BrC1=C2C(=NC=C1)C=CS2 | C7H4BrNS
reactant | n-BuLi | 1.6M, 21.2 ml | [Li]CCCC
reactant | hexane | 34 mmol | CCCCCC | C6H14
reactant | MeOH H2O | 20 ml | CO.O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Thieno[3,2-b]pyridine | 1.44 g, Yield 62% | S1C=CC2=NC=CC=C21 | C7H5NS
